* source PENDULO
R_R1         N00541 VCC  220  
R_R2         N00327 VCC  18k  
R_R3         N00303 VCC  18k  
R_R4         N00178 VCC  220  
C_C1         N00541 N00327  10n  
C_C2         N00303 N00178  10n  
R_R9         N09155 N09152  5.6k  
C_C4         N09155 GND  3.3u  
R_R10         N05570 N09264  1M  
R_R11         N09580 N05644  460k  
R_R12         N09155 N05570  460k  
R_R13         N05644 N06166  1M  
R_R16         VCC N091830  3.3k  
C_C3         N00541 N00178  220n  
C_C5         N09315 GND  1u  
R_R17         N09264 GND  10k  
L_L1         N00541 N00178  10uH  
L_L2         N01794 N09315  10uH  
R_R18         N094641 VCC  1k  
R_R19         GND N09600  10k  
RT_R21         N094641 N09580 {(2K*(1-0.5))+.001}
RB_R21        N09580 N09600 {(2K*0.5)+.001}
L_L3         N04097 N01794  10uH  
RT_R22         N091830 N09315 {(10K*(1-0.5))+.001}
RB_R22        N09315 N09264 {(10K*0.5)+.001}
R_R5         N02446 VCC  10k  
R_R6         GND N02446  4.7k  
J_J1         N04097 N04167 N09152 J2N3819 
R_R7         N04167 N09132  47k  
R_R8         N04097 N09132  1M  
